US08309581B2
a) 4-[2-(1-Cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenoxymethyl]-3-fluoro-benzonitrile
The title compound was prepared in analogy to Example 5, intermediate a, from 2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenol and 4-bromomethyl-3-fluoro-benzonitrile (105942-09-4). Brown sticky solid (69%). MS (Turbo Spray): m/z=476.4 (M+H).

reactant | 2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenol | C1(CCCCC1)CN1C(=NC2=C1C=C(C(=C2)F)F)C2=C(C=CC=C2)O | C20H20F2N2O
reactant | 4-bromomethyl-3-fluoro-benzonitrile | BrCC1=C(C=C(C#N)C=C1)F | C8H5BrFN
product | 4-[2-(1-Cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenoxymethyl]-3-fluoro-benzonitrile | C1(CCCCC1)CN1C(=NC2=C1C=C(C(=C2)F)F)C2=C(OCC1=C(C=C(C#N)C=C1)F)C=CC=C2 | C28H24F3N3O
